US06008230
A mixture of 8-(2,6-dichlorobenzoylamino)-4-[N-(2-methylaminoethyl)-N-methylamino]quinoline (130 mg), phenyl 3-pyridylcarbamate (76 mg) and triethylamine (97.9 mg) in dimethylformamide (1.5 ml) was stirred for 1 hour at ambient temperature. The mixture was diluted with ethyl acetate, washed with 1N sodium hydroxide solution, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (methanol-dichloromethane) to give 8-(2,6-dichlorobenzoylamino)-4-[N-[2-[l-methyl-3-(3-pyridyl)ureido)ethyl]-N-methylamino]quinoline (168 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-[N-(2-methylaminoethyl)-N-methylamino]quinoline | 130 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)N(C)CCNC)C(=CC=C1)Cl | C20H20Cl2N4O
reactant | phenyl 3-pyridylcarbamate | 76 mg | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | triethylamine | 97.9 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(2,6-dichlorobenzoylamino)-4-[N-[2-[l-methyl-3-(3-pyridyl)ureido)ethyl]-N-methylamino]quinoline | 168 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)N(C)CCN(C(=O)NC=2C=NC=CC2)C)C(=CC=C1)Cl | C26H24Cl2N6O2
